US09339501B2
Preparation of the title compound 1-(4-cyclopropyl-pyridin-3-yl)-3-(2-fluoro-benzo(b)thiophene-6-yl)-imidazolidin-2-one (25A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 150 mg, 0.738 mmol) was reacted with 6-Bromo-2-fluoro-benzo[b]thiophene (I-25d: 170.6 mg, 0.738 mmol), copper iodide (14.2, 0.071 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (10.2 mg, 0.071 mmol), potassium phosphate (469.9 mg, 2.21 mmol) and 1,4-dioxane (5 mL) to afford the crude product. Purification by column chromatography on silica gel (1% methanol in CHCl3), followed by preparative HPLC afforded 11.6 mg of the product (4% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.738 mmol, 150 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 6-Bromo-2-fluoro-benzo[b]thiophene | 0.738 mmol, 170.6 mg | BrC=1C=CC2=C(SC(=C2)F)C1 | C8H4BrFS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.071 mmol, 10.2 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 2.21 mmol, 469.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.071 mmol | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropyl-pyridin-3-yl)-3-(2-fluoro-benzo(b)thiophene-6-yl)-imidazolidin-2-one | 11.6 mg, 4% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C=1C=CC2=C(SC(=C2)F)C1)=O | C19H16FN3OS
